US06562989B2
4-methyloxycarbonyl-2′-methyl-1,1′-biphenyl (Table 15, Entry 7)
Methyl 4-chlorobenzoate (172 mg, 1.01 mmol) reacted with 2-methylphenylboronic acid (210 mg, 1.54 mmol) using 1/2 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (190 mg, 3.39 mmol) in THF at 100° C. to give the title compound (209 mg, 92%) as a colorless oil: 1H-NMR (400 MHz, CDCl3): δ 8.13 (d, 2H, J=8.24 Hz), 7.44 (d, 2H, J=8.20 Hz), 7.33-7.25 (m, 4H), 3.98 (s, 3H), 2.30 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ 166.98, 146.69, 140.79, 135.10, 130.44, 129.47, 129.36, 129.21, 128.53, 127.78, 125.85, 52.06, 20.33. GC/MS(EI): m/z 226 (M+), 195, 165, 152. Anal. Calcd for C15H14O2: C, 79.62; H, 6.24. Found C, 79.33; H, 6.26.

reactant | Methyl 4-chlorobenzoate | 1.01 mmol, 172 mg | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
reactant | 2-methylphenylboronic acid | 1.54 mmol, 210 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | KF | 3.39 mmol, 190 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-methyloxycarbonyl-2′-methyl-1,1′-biphenyl | 209 mg, 92% | COC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C15H14O2
